US07846956B2
Under a nitrogen atmosphere, 2.86 g of 2,2-dimethylpropanohydrazide was dissolved in tetrahydrofuran, and 2.78 g of chloroacetyl chloride was then added at 0° C. The mixture was stirred at room temperature for 18 hours. After aqueous saturated sodium hydrogen carbonate was added, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain 2.58 g of N′-(chloroacetyl)-2,2-dimethylpropanohydrazide.

reactant | 2,2-dimethylpropanohydrazide | 2.86 g | CC(C(=O)NN)(C)C | C5H12N2O
reactant | chloroacetyl chloride | 2.78 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N′-(chloroacetyl)-2,2-dimethylpropanohydrazide | 2.58 g | ClCC(=O)NNC(C(C)(C)C)=O | C7H13ClN2O2
